* Z:\mnt\spice-netlists\LT3652HV_TA01A.asc
V1 IN 0 25
L1 N002 N003 20µ
R1 N003 OUT 68m
C1 N002 N005 1µ
D1 OUT N006 1N4148
D2 0 N002 MBRS340
XU1 N001 N004 N007 NC_01 NC_02 0 N009 NC_03 OUT N003 N005 N002 0 LT3652
D3 IN N001 MBRS340
C2 IN 0 10µ
R2 N004 IN 750K
R3 N004 N007 44.2K
R4 N007 0 51.1K
R5 N010 N009 127K
R6 OUT N010 665K
R7 N010 0 150K
C3 OUT N008 .2m
V2 N008 0 12.25
D4 N005 N006 BZX84C10L
Rload OUT 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
* LT3652HV - Power Tracking 2A Battery Charger\nWall Adapter to 5-Cell LiFePO4 Battery Charger\nInput: 19V to 32V     Output: 18V @ 1.5A with C/10 Termination
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc.  All rights reserved.
* Battery
.lib LT3652.sub
.backanno
.end
