* Z:\mnt\spice-netlists\LT8650S_DC2407A.asc
V1 IN 0 12
C11 N006 0 1n
R5 N009 0 15K
L2 N002 OUT2 1µ
R4 N004 0 316K
C12 N007 0 1n
C13 N005 0 1µ
Rload2 OUT2 0 0.825
C2 IN 0 10µ V=50
C1 IN 0 10µ V=50
R3 OUT2 N004 1Meg
C7 OUT2 N004 4.7p
L1 N001 OUT1 1µ
R2 N003 0 191K
Rload1 OUT1 0 1.25
R1 OUT1 N003 1Meg
C6 OUT1 N003 4.7p
C8 OUT2 0 47µ
C9 OUT2 0 47µ
C5 OUT1 0 47µ
C4 OUT1 0 47µ
XU1 N009 0 MP_01 IN MP_02 MP_03 IN MP_04 MP_05 MP_06 IN IN MP_07 NC_08 NC_09 N008 NC_10 NC_11 MP_12 N002 MP_13 N001 MP_14 NC_15 N005 0 N005 N003 N006 N007 N004 N005 LT8650S
* fsw=2MHz
* LT8650S - Dual Channel 42V, 4A Synchronous Step-Down Silent Switcher 2 with 6.2µA Quiescent Current\n 2MHz Step-Down Converter\nInput: 5.4V to 42V     Output: 5V @ 4A & 3.3V @ 4A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.tran 0.6m startup
* 5V/4A
* 3.3V/4A
.lib LT8650S.sub
.backanno
.end
