* Z:\mnt\spice-netlists\LT3496_Boost.asc
XU1 N006 N006 N009 N009 MP_01 MP_02 N012 N009 N010 N008 MP_03 N002 N001 N005 N004 MP_04 0 LT3496
R1 N001 N002 .5
L1 N007 N004 15µ
D1 N004 N001 PMEG6010AED
C1 N011 0 1000p
V1 N007 0 12
V2 N006 0 5
V3 N012 0 PULSE(5 0 0.6m 1u 1u 900u 1m)
C2 N009 0 .1µ
D2-D8 N003 0 LXHL-BW02 N=7
C3 N007 0 1µ
C4 N006 0 1µ
M§Q1 N003 N005 N002 N002 FDS4685
R2 N001 N008 7.15Meg
R3 N008 0 191K
C5 N001 0 1µ
R4 N010 N011 18.2K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
* LT3496 - Triple Output LED Driver In Boost Mode\nInput: 12V       Output: 7 LEDs @ 200mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LT3496.sub
.backanno
.end
