* Z:\mnt\spice-netlists\LT3757_Boost.asc
XU1 N009 N010 N004 N007 MP_01 N006 N005 N003 N002 IN 0 LT3757
M§Q1 N001 N005 N006 N006 FDS6680A
R1 N007 0 41.2K
R2 N010 0 16.2K
R3 OUT N010 226K
L1 IN N001 10µ
D1 N001 OUT B530C
C1 OUT 0 47µ
R4 N009 N008 22K
C2 N008 0 6800p
V1 IN 0 12
C3 N003 0 4.7µ
C4 N004 0 .01µ
R5 N002 0 43.2K
R6 IN N002 200K
Rload OUT 0 12
R7 N006 0 .01
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
* LT3757 - Boost, Flyback, SEPIC and Inverting Controller\nInput: 12V       Output: 24V@2A
.lib LT3757.sub
.backanno
.end
