* Z:\mnt\spice-netlists\LT8710_Boost_F5.asc
V1 IN 0 12
R1 N006 0 10K
R2 IN N006 12.7K
R3 N009 0 118K
C1 N007 0 2.2µ
C2 N014 0 47n
C3 N015 0 10n
C4 N012 0 100p
C5 N013 0 4.7n
R4 N012 N013 12.1K
R5 OUT N002 10m
R6 N004 0 5m
R7 OUT N010 274K
M§Q1 N001 N003 N004 N004 IPP039N04L
M§Q2 N001 N005 N002 N002 Si4401DY
C7 OUT 0 330µ
C8 OUT 0 10µ
R8 N007 N011 100K
XU1 N010 N012 N015 N011 N014 OUT N002 OUT N008 N005 N003 N007 IN 0 N004 N006 N007 N009 MP_01 0 LT8710
C9 N008 OUT 2.2µ
L1 IN N001 10µ
Iload OUT 0 2
C6 IN 0 330µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2018 Analog Device Inc. All rights reserved.
* LT8710 - Synchronous SEPIC/ Inverting/Boost Controller with Output Current Control\nSynchronous Boost Converter with Output Current Monitoring\nInput: 10V to 14V     Output: 24V @ 2A (with 12Vin), Fsw = 300kHz
.lib LT8710.sub
.backanno
.end
