* Z:\mnt\spice-netlists\LT3496_Buck.asc
XU1 N006 N006 N011 N011 MP_01 MP_02 N013 N011 N012 N009 MP_03 N002 N001 N005 N007 MP_04 0 LT3496
R1 N001 N002 .2
L1 N004 N007 15µ
D1 N007 N001 PMEG6010AED
C1 N001 N004 .1µ
C2 N012 0 1000p
V1 N001 0 42
V2 N006 0 5
V3 N013 0 PULSE(5 0 0.6m 1u 1u 900u 1m)
C3 N011 0 .1µ
D2-D8 N003 N004 LXHL-BW02 N=7
C4 N001 0 1µ
C5 N006 0 1µ
M§Q1 N003 N005 N002 N002 FDS4685
R2 N003 N008 301K
R3 N009 0 10K
R4 N004 N010 59K
Q2 N009 N010 N008 0 2N3906
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
* LT3496 - Triple Output LED Driver in Buck Mode\nInput: 42V       Output: 7 LEDs @ 500mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LT3496.sub
.backanno
.end
