* Z:\mnt\spice-netlists\LT3759_DC1725.asc
XU1 N010 N011 N005 N008 MP_01 N002 N007 N006 N003 OUT IN N004 0 LT3759
C1 N010 N009 22n
R1 N008 0 16.9K
C2 N005 0 .02µ
V1 IN 0 2.6
C3 N003 0 4.7µ
R2 IN N004 348K
R3 N004 0 887K
R4 N003 N002 100K
L1 N001 IN 2.2µ
M§Q1 N001 N006 N007 N007 Si4838DY
R5 N007 0 5m
D1 N001 OUT DFLS220L
R6 OUT N011 34K
R7 N011 0 15.8K
C6 OUT 0 100µ
Rload OUT 0 5
R8 N009 0 5.1K
C7 OUT 0 100µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LT3759 - Wide Input Voltage Range Boost/SEPIC/Inverting Controller\nBoost Converter with Low Input Voltage Range\nInput: 1.8V to 4.5V (2.5V Startup, 1.7V Shutdown)       Output: 5V@2.0A, Fsw = 485kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LT3759.sub
.backanno
.end
