* Z:\mnt\spice-netlists\LT3759_DC1787.asc
XU1 N011 N012 N006 N009 MP_01 N003 N008 N007 N004 OUT IN N005 0 LT3759
C1 N010 0 68n
R1 N009 0 27.4K
C2 N006 0 .02µ
V1 IN 0 4
C3 N004 0 4.7µ
R2 IN N005 249K
R3 N005 0 255K
R4 N004 N003 100K
L1 IN N001 15µ
L2 0 N002 15µ
M§Q1 N001 N007 N008 N008 RJK0651DPB
R5 N008 0 5m
C4 N001 N002 4.7µ
D1 N002 OUT MBRS360
R6 OUT N012 102K
R7 N012 0 15.8K
C6 OUT 0 47µ
Rload OUT 0 12
R8 N011 N010 1.43K
C7 OUT 0 47µ
C5 N011 0 470p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 7m startup
* LT3759 - Wide Input Voltage Range Boost/SEPIC/Inverting Controller\nSEPIC Converter with Wide Input Voltage Range\nInput: 2.8V to 36V (3V Startup, 2.5V Shutdown)        Output: 12V@1.0A, Fsw = 300kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LT3759.sub
.backanno
.end
