* Z:\mnt\spice-netlists\LT3468_DC661A-A.asc
L1 IN N003 10µ
L2 0 N001 {10µ*10.2**2}
R1 N002 IN 100K
V1 IN 0 5
XU1 N003 0 N002 N004 IN LT3468
D1 0 N003 RB400D
V2 N004 0 PULSE(0 5 0.1m)
D2 N001 OUT GSD2004W-V
Cload OUT 0 .1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
K1 L1 L2 1
* Note:\n  DANGER HIGH VOLTAGE - OPERATION BY HIGH VOLTAGE TRAINED PERSONNEL ONLY\n  Scale charge time by the Cload capacitance. For simulation, a .1uF capacitor is used to reduce simulation time.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
* LT3468 - Photoflash Capacitor Chargers in ThinSOT\nStrobe Capacitor Charger\nInput: 2.5V to 8V     Output: 320V
.lib LT3468.sub
.backanno
.end
