* Z:\mnt\spice-netlists\LT1767_DC502A.asc
V1 IN 0 12
I1 OUT 0 1 load
C1 IN 0 2.2µ
C2 OUT 0 4.7µ
XU1 N001 IN N002 0 IN N003 N004 LT1767
R1 N003 0 10K
R2 OUT N003 17.4K
D1 0 N002 MBRS140
D2 OUT N001 CMDSH2-3
L1 N002 OUT 4.7µ
C3 N001 N002 .1µ
C4 N005 0 2200p
C5 N004 0 100p
R3 N004 N005 3.3K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100u startup
* LT1767 - 1.5A, 1.25MHz, Wide Input Range Step-Down DC/DC Converter\nInput: 4.5V to 18V     Output: 3.3V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1767.sub
.backanno
.end
